US04785010
1-(Methoxycarbonyl-methyl)-2-(2-phthalimido-ethyl)-5-methyl-pyrrole
82 g (0.03 mol) of 7-phthalimido-2,5-heptanedione, 5.0 g (0.04 mol) of glycine methyl ester hydrochloride and 3.3 g (0.04 mol) of sodium acetate are stirred in 150 ml of formic acid at 60° C. for 4 hours and the mixture is worked up as in Example 27.

reactant | 7-phthalimido-2,5-heptanedione | 0.03 mol, 82 g | C1(C=2C(C(N1CCC(CCC(C)=O)=O)=O)=CC=CC2)=O | C15H15NO4
reactant | glycine methyl ester hydrochloride | 0.04 mol, 5.0 g | Cl.COC(CN)=O
reactant | sodium acetate | 0.04 mol, 3.3 g | C(C)(=O)[O-].[Na+]
solvent | formic acid | 150 ml | C(=O)O | CH2O2
product | 1-(Methoxycarbonyl-methyl)-2-(2-phthalimido-ethyl)-5-methyl-pyrrole | COC(=O)CN1C(=CC=C1C)CCN1C(C=2C(C1=O)=CC=CC2)=O | C18H18N2O4
